US05246948
Synthesis of 4-(3-phthalimidopropyloxy)pyridine
To a solution of 4.76 g (50 mmol) of 4-hydroxypyridine and 14.75 g (55 mmol) of N-(3-bromopropyl)phthalimide in 80 ml of DMF was added 8.23 ml (55 mmol) of 1,8-diazabicyclo[5.4.0]-7-undecene. The mixture was stirred at room temperature for 6 hours. After the solvent was distilled off, the mixture was poured into water and extracted with ethyl acetate. The mixture was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to obtain 2.32 g of the desired compound (yield: 16.4%, colorless crystals).

reactant | 4-hydroxypyridine | 50 mmol, 4.76 g | OC1=CC=NC=C1 | C5H5NO
reactant | N-(3-bromopropyl)phthalimide | 55 mmol, 14.75 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 55 mmol, 8.23 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 4-(3-phthalimidopropyloxy)pyridine | 2.32 g, yield: 16.4% | C1(C=2C(C(N1CCCOC1=CC=NC=C1)=O)=CC=CC2)=O | C16H14N2O3
